US06413964B1
Step O: Preparation of 14-Amino-14-(1-methyl-1H-imidazol-5-yl)-8-oxa-2-thia-1,18-diazatetracyclo[16.2.2.13,7.19,13]tetracosa-3(24),4,6,9(23),10,12-hexaene-10-carbonitrile 2,2-dioxide
N-[1-(4-cyano-3-fluorophenyl)-4-{4-[(3-hydroxyphenyl)sulfonyl]piperazin-1-yl}-1-(1-methyl-1H-imidazol-5-yl)butyl]-2-methylpropane-2-sulfinamide (0.115 g, 0.186 mmol) was dissolved in DMF (19 mL) and treated with Cs2CO3 (0.304 g, 0.93 mmol). After 24 h at 80° C., the reaction mixture was concentrated in vacuo, partitioned between CH2Cl2 and H2O, the aqueous layer washed with CH2Cl2 (2×), the organic layers combined, washed with brine, and dried (MgSO4). Filtration and concentration in vacuo gave the protected product which was dissolved in MeOH (10 mL) and treated with 4M HCl in dioxane (5 mL) with stirring. After 15 min. the reaction mixture was concentrated in vacuo, dissolved in H2O: 0.1% TFA (3 mL), and purified by RP LC on a Delta PrepPak eluting with 95:5 to 5:95 H2O(0.1% TFA): CH3CN(0.1% TFA) and lyophilized to give the product as the TFA salt of a mixture of enantiomers. This product was chromatographed on a Chiralcel OD column eluting with 0.1% DEA:hexane/EtOH, 60/40 to give the title compound as a single enantiomer. MS (M+1) 493.

reactant | N-[1-(4-cyano-3-fluorophenyl)-4-{4-[(3-hydroxyphenyl)sulfonyl]piperazin-1-yl}-1-(1-methyl-1H-imidazol-5-yl)butyl]-2-methylpropane-2-sulfinamide | 0.186 mmol, 0.115 g | C(#N)C1=C(C=C(C=C1)C(CCCN1CCN(CC1)S(=O)(=O)C1=CC(=CC=C1)O)(C1=CN=CN1C)NS(=O)C(C)(C)C)F | C29H37FN6O4S2
reactant | Cs2CO3 | 0.93 mmol, 0.304 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | HCl | 4M | Cl | ClH
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 19 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 10 mL | CO | CH4O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 14-Amino-14-(1-methyl-1H-imidazol-5-yl)-8-oxa-2-thia-1,18-diazatetracyclo[16.2.2.13,7.19,13]tetracosa-3(24),4,6,9(23),10,12-hexaene-10-carbonitrile 2,2-dioxide | NC1(C2=CC=C(C(OC3=CC=CC(S(N4CCN(CCC1)CC4)(=O)=O)=C3)=C2)C#N)C2=CN=CN2C | C25H28N6O3S
